US05965761
Air was conducted for 30 min. into a mixture of 1 g of 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(3-butenyloxy)benzoate, 0.480 ml of triethoxysilane, 10 ml of toluene and 0.017 ml of platinum divinyltetramethyldisiloxane (3-3.5% in toluene) and the mixture was then stirred at 60° C. for 1 hr. Then, a further 0.1 ml of triethoxysilane was added and the mixture was left to react at 60° C. for 16 hrs. The reaction mixture was thereafter cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was thereupon dried over magnesium sulphate, filtered and evaporated to dryness. Chromatography on 150 g of silica gel with toluene/ethyl acetate (19:1 to 9:1) gave 0.60 g of 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(4-triethoxysilanylbutyloxy)benzoate as a colorless liquid, λmax. (CH2Cl2): 279 nm.

reactant | 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(3-butenyloxy)benzoate | 1 g | C(CC=C)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C1 | C22H22O6
reactant | triethoxysilane | 0.480 ml | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | triethoxysilane | 0.1 ml | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | platinum divinyltetramethyldisiloxane | 0.017 ml | C(=C)[Si](O[Si](C)(C)C)(C)C=C.[Pt]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(4-triethoxysilanylbutyloxy)benzoate | 0.60 g | C(C)O[Si](CCCCOC1=CC=C(C(=O)OC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C1)(OCC)OCC | C28H38O9Si
